US06518423B1
[1-[10-(Methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]-3-phthalimidomethylpyridinium chloride
0.587 g of 8-chloromethyl-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine and a solution of 0.524 g of N-(3-pyridylmethyl)phthalimide in 10 ml of dimethylforamide were heated to 80° C. in a nitrogen atmosphere for 4 hours. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 0.489 g of the title compound as yellow crystals.

reactant | 8-chloromethyl-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | 0.587 g | ClCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H12ClN3OS
reactant | N-(3-pyridylmethyl)phthalimide | 0.524 g | N1=CC(=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C14H10N2O2
solvent | dimethylforamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[10-(Methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl]-3-phthalimidomethylpyridinium chloride | 0.489 g | [Cl-].COCN1C2=C(SC3=C1C=C(C=C3)C[N+]3=CC(=CC=C3)CN3C(C=1C(C3=O)=CC=CC1)=O)N=CC=N2 | InChI=1S/C27H22N5O3S.ClH/c1-35-17-32-22-13-18(8-9-23(22)36-25-24(32)28-10-11-29-25)14-30-12-4-5-19(15-30)16-31-26(33)20-6-2-3-7-21(20)27(31)34;/h2-13,15H,14,16-17H2,1H3;1H/q+1;/p-1
